US07470671B2
6-Cyano-2-methyl-3-aminopyridine
A mixture of 3.5 g (18.6 mmol) of 6-bromo-2-methyl-3-aminopyridine, 352 mg (0.37 mmol) of tris(benzylideneacetone)dipalladium(0), 532 mg (0.92 mmol) of 1,1′-bis(diphenylphosphino)ferrocene, 146 mg (2.2 mmol) of zinc powder and 1.4 g (12 mmol) of zinc cyanide in 70 ml of N,N-dimethylacetamide is prepared and the reaction mixture is then stirred at 20° C. for 22 hours. It is diluted with 200 ml of ethyl acetate and washed with 2 N ammonium chloride solution. (Decantation is obtained only after filtration of the mixture on a filter aid of the Celite type.) The organic phase obtained is washed with sodium chloride solution, dried over magnesium sulfate and concentrated under reduced pressure. The evaporation residue is purified by chromatography on silica gel using a dichloromethane/ethyl acetate mixture (9/1; v/v) as the eluent to give 1.6 g of the expected compound in the form of a yellow powder (yield=65%).

reactant | 6-bromo-2-methyl-3-aminopyridine | 18.6 mmol, 3.5 g | BrC1=CC=C(C(=N1)C)N | C6H7BrN2
reactant | N,N-dimethylacetamide | 70 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.92 mmol, 532 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | zinc | 2.2 mmol, 146 mg | [Zn] | Zn
catalyst | zinc cyanide | 12 mmol, 1.4 g | [C-]#N.[Zn+2].[C-]#N
product | 6-Cyano-2-methyl-3-aminopyridine | 1.6 g | C(#N)C1=CC=C(C(=N1)C)N | C7H7N3
